US08058288B2
Step 1. 1-{4-[(trifluoromethyl)thio]phenyl}cyclopropanecarboxylic acid
A mixture of {4-[(trifluoromethyl)thio]phenyl}acetonitrile (1.15 g, 0.00529 mol), 1-bromo-2-chloro-ethane, (880 μL, 0.010 mol), benzyltriethyl ammonium chloride (70 mg, 0.0003 mol) and 1.5 ml of 50% NaOH-water (w/w) solution was kept at 50° C. with stirring for 3 hours. LCMS data supported that the reaction was complete. To the above solution 1,2-ethanediol (10 mL, 0.2 mol) was added. The mixture was heated at 100° C. overnight. After work-up 1.2 g of solid product was obtained. LC/MS: 387.1) (M+H+).

reactant | {4-[(trifluoromethyl)thio]phenyl}acetonitrile | 0.00529 mol, 1.15 g | FC(SC1=CC=C(C=C1)CC#N)(F)F | C9H6F3NS
reactant | 1-bromo-2-chloro-ethane | 0.010 mol, 880 μL | BrCCCl | C2H4BrCl
reactant | NaOH water | 1.5 ml | [OH-].[Na+].O
reactant | 1,2-ethanediol | 0.2 mol, 10 mL | C(CO)O | C2H6O2
catalyst | benzyltriethyl ammonium chloride | 0.0003 mol, 70 mg | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | 1-{4-[(trifluoromethyl)thio]phenyl}cyclopropanecarboxylic acid | 1.2 g | FC(SC1=CC=C(C=C1)C1(CC1)C(=O)O)(F)F | C11H9F3O2S
